US04970115
(a) Preparation of vinyl laurate:
51.5 g of vinyl acetate and 20 g (0.1 mole) of lauric acid were introduced into a 100-ml two-necked round-bottomed flask. The acid was dissolved by warming and 0.4 g of mercuric acetate was added under a stream of nitrogen. The mixture was thus maintained for 30 minutes at ambient temperature, with magnetic stirring, under nitrogen. Two drops of sulfuric acid (95%) were then added and the reaction mixture was heated under reflux for 3 hours. It was then permitted to cool to ambient temperature and 0.21 g of sodium acetate was then added.

reactant | vinyl acetate | 51.5 g | C(C)(=O)OC=C | C4H6O2
reactant | lauric acid | 0.1 mole, 20 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | sodium acetate | 0.21 g | C(C)(=O)[O-].[Na+]
catalyst | sulfuric acid | Two drops | S(O)(O)(=O)=O | H2O4S
product | vinyl laurate | C(CCCCCCCCCCC)(=O)OC=C | C14H26O2
